US06759429B2
In a similar manner to the preparation of methyl 2-amino-3-formylbenzoate, 2-amino-3-bromobenzaldehyde (3.28 g, quantitatively) was obtained from (2-amino-3-bromophenyl)methanol (3.27 g).

reactant | methyl 2-amino-3-formylbenzoate | NC1=C(C(=O)OC)C=CC=C1C=O | C9H9NO3
reactant | 2-amino-3-bromobenzaldehyde | NC1=C(C=O)C=CC=C1Br | C7H6BrNO
product | (2-amino-3-bromophenyl)methanol | 3.27 g | NC1=C(C=CC=C1Br)CO | C7H8BrNO
